US06822097B1
Step (A) Preparation of 3-(2-methylamino-thiazol-4-yl)-2-oxo-1,2-dihydro-quinoline-7-carboxylic acid methyl ester
This compound was made analogous to Example 8733, step G. 3-(2-Bromo-acetyl)-2-oxo-1,2-dihydro-quinoline-7-carboxylic acid methyl ester (497 mg, 1.5 mmol) and 1-methyl-2-thiourea (130 mg, 1.4 mmol) in MeOH were heated to 150° C. for 400 seconds in the microwave. MS m/z: 316 (M+1), 314 (M−1).

reactant | 3-(2-Bromo-acetyl)-2-oxo-1,2-dihydro-quinoline-7-carboxylic acid methyl ester | 1.5 mmol, 497 mg | COC(=O)C1=CC=C2C=C(C(NC2=C1)=O)C(CBr)=O | C13H10BrNO4
reactant | 1-methyl-2-thiourea | 1.4 mmol, 130 mg | CNC(=S)N | C2H6N2S
solvent | MeOH | CO | CH4O
product | 3-(2-methylamino-thiazol-4-yl)-2-oxo-1,2-dihydro-quinoline-7-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)NC | C15H13N3O3S
